US08110579B2
According to the saponification/peptide coupling steps described in examples 1.7 and 1.8 respectively, starting from 290 mg (0.63 mmol) of methyl 6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-(2-chlorophenyl)pyridine-2-carboxylate and 184 mg (0.94 mmol) of 2-aminoadamantane-2-carboxylic acid, we obtain 120 mg of 2-({[6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-(2-chlorophenyl)pyridin-2-yl]carbonyl}amino)adamantane-2-carboxylic acid hydrochloride in the form of white powder.

reactant | methyl 6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-(2-chlorophenyl)pyridine-2-carboxylate | 0.63 mmol, 290 mg | ClC1=C(C=C(C=C1)C1=C(C=CC(=N1)C(=O)OC)C1=C(C=CC=C1)Cl)OCCCN(C)C | C24H24Cl2N2O3
reactant | 2-aminoadamantane-2-carboxylic acid | 0.94 mmol, 184 mg | NC1(C2CC3CC(CC1C3)C2)C(=O)O | C11H17NO2
product | 2-({[6-{4-chloro-3-[3-(dimethylamino)propoxy]phenyl}-5-(2-chlorophenyl)pyridin-2-yl]carbonyl}amino)adamantane-2-carboxylic acid hydrochloride | 120 mg, Yield=29% | Cl.ClC1=C(C=C(C=C1)C1=C(C=CC(=N1)C(=O)NC1(C2CC3CC(CC1C3)C2)C(=O)O)C2=C(C=CC=C2)Cl)OCCCN(C)C | InChI=1S/C34H37Cl2N3O4.ClH/c1-39(2)12-5-13-43-30-19-22(8-10-28(30)36)31-26(25-6-3-4-7-27(25)35)9-11-29(37-31)32(40)38-34(33(41)42)23-15-20-14-21(17-23)18-24(34)16-20;/h3-4,6-11,19-21,23-24H,5,12-18H2,1-2H3,(H,38,40)(H,41,42);1H
